US05792763
N-[3-(1-methylpiperidin-4-yl)benzofur-5-yl]acetamide hydrochloride
Beginning with a mixture of 0.018 gm (0.07 mMol) 5-amino-3-(l-methylpiperidin-4-yl)benzofuran and 15 μL (0.21 mMol) acetyl chloride, 0.0147 gm of the title compound were prepared by the procedure of EXAMPLE 18.

reactant | 5-amino-3-(l-methylpiperidin-4-yl)benzofuran | 0.07 mMol, 0.018 gm | NC=1C=CC2=C(C(=CO2)C2CCN(CC2)C)C1 | C14H18N2O
reactant | acetyl chloride | 0.21 mMol, 15 μL | C(C)(=O)Cl | C2H3ClO
product | N-[3-(1-methylpiperidin-4-yl)benzofur-5-yl]acetamide hydrochloride | 0.0147 gm | Cl.CN1CCC(CC1)C1=COC2=C1C=C(C=C2)NC(C)=O | InChI=1S/C16H20N2O2.ClH/c1-11(19)17-13-3-4-16-14(9-13)15(10-20-16)12-5-7-18(2)8-6-12;/h3-4,9-10,12H,5-8H2,1-2H3,(H,17,19);1H
